US05767129
1,1-Diphenyl-1,4-butanediol
4-Butyrolactone (11.93 mL, 0.155 mol) was dissolved in anhydrous THF and cooled to 0° C. Phenylmagnesium bromide (3M in ether, 112 mL) was added dropwise over 30 minutes to the reaction under N2. After the addition, the reaction was warmed to room temperature overnight. Additional phenylmagnesium bromide (3M in ether, 103 mL) was added, and the reaction stirred at room temperature overnight. The reaction was quenched with saturated NH4Cl (150 mL). Ether (200 mL) and 10% HCl (100 mL) were added. The organic layer was separated and washed with 10% HCl (100 mL), brine (100 mL), and then dried over MgSO4. The solution was filtered, concentrated, and the crude material chromatographed on silica gel eluting with 50% EtOAc/Hexanes to give 26.94 g (72%) of desired product as an off-white solid.

reactant | 4-Butyrolactone | 0.155 mol, 11.93 mL | C1(CCCO1)=O | C4H6O2
reactant | Phenylmagnesium bromide | 3M, 112 mL | C1(=CC=CC=C1)[Mg]Br
reactant | phenylmagnesium bromide | 3M, 103 mL | C1(=CC=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 1,1-Diphenyl-1,4-butanediol | 26.94 g, 72% | C1(=CC=CC=C1)C(CCCO)(O)C1=CC=CC=C1 | C16H18O2
